US07842688B2
b) Benzyl 3-[1-ethyl-2-oxo-3-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-benzimidazol-4-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.340 g of benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.272 g of 4-bromomethyl-1-ethyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one are reacted. The title compound is obtained as a dark yellow resin. Rf=0.50 (1:1 EtOAc-heptane); Rt=6.67.

reactant | benzyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.340 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C30H35NO6
reactant | 4-bromomethyl-1-ethyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one | 0.272 g | BrCC1=CC=CC=2N(C(N(C21)COCC[Si](C)(C)C)=O)CC | C16H25BrN2O2Si
product | Benzyl 3-[1-ethyl-2-oxo-3-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-benzimidazol-4-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)N1C(N(C2=C1C=CC=C2COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)COCC[Si](C)(C)C)=O | C46H59N3O8Si
